US04921855
To a solution of N,N'-dimethylhydrazine dihydrochloride (1.33 g) and triethylamine (2.02 g) in dry tetrahydrofuran (20 ml) which was cooled to 0° C., was added isopropyl isocyanate (851 mg). The mixture was stirred at 0° C. for 2 hours. After evaporation of the solvent, the residue was dissolved in ethyl acetate (50 ml). The solution was washed with 1M sodium bicarbonate solution and water successively, and dried over magnesium sulfate. The solvent was evaporated to give N-(isopropylcarbamoyl)-N,N'-dimethylhydrazine (771 mg) as an oil.

reactant | N,N'-dimethylhydrazine dihydrochloride | 1.33 g | Cl.Cl.CNNC
reactant | triethylamine | 2.02 g | C(C)N(CC)CC | C6H15N
reactant | isopropyl isocyanate | 851 mg | C(C)(C)N=C=O | C4H7NO
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | N-(isopropylcarbamoyl)-N,N'-dimethylhydrazine | 771 mg | C(C)(C)NC(=O)N(NC)C | C6H15N3O
